US07179819B2
A mixture of benzyl 5-phenyl-5-pyrroline-2-(S)-carboxylate (1.59 g, 5.69 mmol) and Pd/C (10%, 128 mg) in MeOH (30 ml) was stirred under H2 at rt for 28 h. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in CH3CN—H2O (3:2, 25 ml), then was added di-tert-butyl dicarbonate (1.86 g, 8.54 mmol) and 1.0 M-NaOH (8.54 ml, 8.54 mmol), and the resulting mixture was stirred for 30 min. The mixture was concentrated in vacuo and poured into aq.NaHCO3, then extracted with EtOAc. The organic layer was washed with water, saturated brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with CHCl3-MeOH (9:1) and recrystallized from hexane-EtOAc to give N-Boc-5-(R)-phenyl-(S)-proline (810 mg, 49%) as a colorless solid. Mp 113–117° C.; 1H-NMR (CDCl3) δ 1.13 (s, 9 H), 1.43 (br s, 1 H), 1.96 (br s, 1 H), 2.09 (br s, 1 H), 2.31–2.34 (m, 1 H), 2.46 (br s, 1 H), 4.52 (br s, 1 H), 4.69 (br s, 1 H), 7.22–7.37 (m, 5 H).

reactant | benzyl 5-phenyl-5-pyrroline-2-(S)-carboxylate | 5.69 mmol, 1.59 g | C1(=CC=CC=C1)C=1CC[C@H](N1)C(=O)OCC1=CC=CC=C1 | C18H17NO2
reactant | di-tert-butyl dicarbonate | 8.54 mmol, 1.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 8.54 mmol, 8.54 ml | [OH-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd/C | 128 mg | [Pd] | Pd
product | N-Boc-5-(R)-phenyl-(S)-proline | 810 mg, 49% | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC[C@@H]1C1=CC=CC=C1 | C16H21NO4
